US07196100B2
4-(1-Benzyl-piperidin-4-yloxy)-benzonitrile
Combine 4-(piperidin-4-yloxy)-benzonitrile hydrochloride (64 mg, 0.268 mmol), benzaldehyde (55 μL, 0.536 mmol) and sodium triacetoxy borohydride (85 mg, 0.402 mmol) in CH2Cl2 (3 mL). Stir at room temperature overnight. Dilute the reaction mixture with CH2Cl2 (3 mL) and wash with NaOH (1M aq. 5 mL). Separate the organic layer and place it in an SCX column, eluting with ammonia (2.0M in methanol) to provide the title compound (74 mg, 95%).

reactant | 4-(piperidin-4-yloxy)-benzonitrile hydrochloride | 0.268 mmol, 64 mg | Cl.N1CCC(CC1)OC1=CC=C(C#N)C=C1
reactant | benzaldehyde | 0.536 mmol, 55 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxy borohydride | 0.402 mmol, 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-Benzyl-piperidin-4-yloxy)-benzonitrile | 74 mg, 95% | C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC=C(C#N)C=C1 | C19H20N2O
